US05424280
Preparation of 2-Fluoro-4-(methoxymethoxy)-1-nitrobenzene
A solution of 3-fluoro-4-nitrophenol (10.0 g, 0.064 mol), dimethoxymethane (19.3 g, 0.255 mol) and N,N-dimethylformamide (6.0 g, 0.083 mol) in toluene is heated to 65° C., treated dropwise with phosphorus oxychloride (15.7 g, 0.102 mol), stirred at 90° C. for two hours, cooled to room temperature and poured into ice water which contains five mL of 50% sodium hydroxide solution. After the ice has melted, the mixture is extracted with ether. The organic extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title product as a yellow liquid (4.0 g) which is identified by 1HNMR spectral analysis.

reactant | 3-fluoro-4-nitrophenol | 0.064 mol, 10.0 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | dimethoxymethane | 0.255 mol, 19.3 g | COCOC | C3H8O2
reactant | N,N-dimethylformamide | 0.083 mol, 6.0 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.102 mol, 15.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | five mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Fluoro-4-(methoxymethoxy)-1-nitrobenzene | 4.0 g | FC1=C(C=CC(=C1)OCOC)[N+](=O)[O-] | C8H8FNO4
